US07049325B2
A solution of 5-(2,4-difluoro-phenoxy)-6-methoxy-1H-quinolin-2-one derivative (0.3 g) in 10 mL of POCl3 was refluxed for 1.5 hours. POCl3 was removed under vacuum, the residue was stirred with saturated aqueous sodium bicarbonate solution, the product was extracted with methylene chloride, and the organic layer was dried (MgSO4). Solvent removal gave 0.28 g (87.5%) of 2-chloro-5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline as pure white crystals.

reactant | 5-(2,4-difluoro-phenoxy)-6-methoxy-1H-quinolin-2-one | 0.3 g | FC1=C(OC2=C3C=CC(NC3=CC=C2OC)=O)C=CC(=C1)F | C16H11F2NO3
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline | 0.28 g, 87.5% | ClC1=NC2=CC=C(C(=C2C=C1)OC1=C(C=C(C=C1)F)F)OC | C16H10ClF2NO2
